datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:92][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>CC[O:92][C:61]([CH:10]([CH:20]1[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]1=[O:33])[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C[C:11](C1CC1)=[CH2:10].C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C+:11](C1CC1)[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1 10,11=10,20"
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.C[C:61]1=[N:10]CC[S:62]1>>CN(C)C1=CC=C([CH:20]([N+:10]2=[C:61](C)[S:62]CC2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10=20;20,21=21"
"CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P:11]([H:10])[N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P+:11][N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20"
"CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1>>CC[O:92][C:61]([C:10](OC)([CH:20]([N-:21][S:32](C1=CC=C(C)C=C1)(=[O:33])=[O:34])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21"
"C1COC2(CC[C:20](=[O:21])CC2)O1.Cl[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>Cl[C:63]1=[CH:62][CH:61]=[N+:10]([C:20]2([O-:21])CCC3(CC2)OCCO3)[CH:71]=[CH:72]1 10=20;20,21=21"
"CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][C:11](C)=[N:10]2.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[C:11](C)[N:10]2[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1 10,11=10,20;12=11,12"
CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2+:10][CH2:20][C:31]23C4(C5=CC=CC=C5)[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])[CH:72]=[CH:73]1 10=20
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[C:74]1=[CH:73][N:10]=[CH:61][NH:62]1>>CC[O:33][C:22](=[CH:21][CH2:20][N+:10]1=[CH:61][NH:62][C:74](C)=[CH:73]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].C[C:11](=[N:10][C:61](C)=[O:62])[O-:12]>>CC(C)[O:33][C:22](=[N:21][N:20]([N:10]([C:11](C)=[O:12])[C:61](C)=[O:62])[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]([C:61](C)=[O:62])[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[N:12](C)[N:11]=[CH2:10].O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[N+:12](C)=[N:11][CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[N+:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
